US07923554B2
b-1) To a solution of 4-aminobenzonitrile (10 g, 84.6 mmoles) in dry THF (80 ml) were added di-tert-butyl-dicarbonate (27.1 g, 127 mmoles) and 4-dimethylaminopyridine (500 mg). The mixture was refluxed for 3 hours. After evaporation, the residue was chromatographed on a silica gel column using CH2Cl2 as eluent. After recrystallisation in a mixture of methanol and water, the intermediate was isolated. Yield: 42% of 4-cyanophenylcarbamic acid-1,1-dimethylethylester (CI-MS: 219 [M+H+]).

reactant | 4-aminobenzonitrile | 84.6 mmoles, 10 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | di-tert-butyl-dicarbonate | 127 mmoles, 27.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 80 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 500 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-cyanophenylcarbamic acid-1,1-dimethylethylester | Yield: 42% | CC(C)(C)OC(NC1=CC=C(C=C1)C#N)=O | C12H14N2O2
